US04097591
To a stirred solution of 2.42 g of N-(2-methoxyethyl) glycine ethyl ester and 4.0 ml of triethylamine in 50 ml of chloroform, which was cooled in an ice-salt bath, was added in portions N2 -(2-dibenzothienylsulfonyl)-L-arginyl chloride obtained above. The reaction mixture was stirred overnight at room temperature. At the end of this period, 50 ml of chloroform was added and the chloroform solution was washed twice with 25 ml of saturated sodium chloride solution, dried over anhydrous sodium sulfate and evaporated in vacuo. The oily residue was washed with ethyl ether to give 5.5 g of powdery N2 -(2-dibenzothienylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester

reactant | N-(2-methoxyethyl) glycine ethyl ester | 2.42 g | C(C)OC(CNCCOC)=O | C7H15NO3
reactant | triethylamine | 4.0 ml | C(C)N(CC)CC | C6H15N
reactant | N2 (2-dibenzothienylsulfonyl)-L-arginyl chloride | N#N.C1=C(C=CC=2SC3=C(C21)C=CC=C3)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N2 (2-dibenzothienylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester | 5.5 g | N#N.C(C)OC(CN(CCOC)C([C@@H](NS(=O)(=O)C1=CC2=C(SC3=C2C=CC=C3)C=C1)CCCNC(N)=N)=O)=O | InChI=1S/C25H33N5O6S2.N2/c1-3-36-23(31)16-30(13-14-35-2)24(32)20(8-6-12-28-25(26)27)29-38(33,34)17-10-11-22-19(15-17)18-7-4-5-9-21(18)37-22;1-2/h4-5,7,9-11,15,20,29H,3,6,8,12-14,16H2,1-2H3,(H4,26,27,28);/t20-;/m0./s1
